US09126956B2
6E: (2S,4R)-5-Biphenyl-4-yl-4-[(3-hydroxyisoxazole-5-carbonyl)amino]-2-methoxymethyl-2-methylpentanoic Acid
3-Hydroxy-isoxazole-5-carboxylic acid and (2S,4R)-4-amino-5-biphenyl-4-yl-2-methoxymethyl-2-methylpentanoic acid ethyl ester were reacted as described herein to yield the title compound (2.4 mg). MS m/z [M+H]+ calc'd for C24H26N2O6, 439.18. found 439.2.

reactant | 3-Hydroxy-isoxazole-5-carboxylic acid | OC1=NOC(=C1)C(=O)O | C4H3NO4
reactant | (2S,4R)-4-amino-5-biphenyl-4-yl-2-methoxymethyl-2-methylpentanoic acid ethyl ester | C(C)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)COC)=O | C22H29NO3
product | (2S,4R)-5-Biphenyl-4-yl-4-[(3-hydroxyisoxazole-5-carbonyl)amino]-2-methoxymethyl-2-methylpentanoic Acid | 2.4 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)COC)NC(=O)C1=CC(=NO1)O)C1=CC=CC=C1 | C24H26N2O6
